US04871730
A solution of 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylic acid (syn isomer) (1 g) and sodium acetate (1.41 g) in water (21 ml) was stirred at ambient temperature over night. The mixture was adjusted to pH 2 with 1N hydrochloric acid to give a precipitate. The precipitate was collected by filtration, washed with water and dried over phosphorus pentoxide to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinylthio-3-cephem-4-carboxylic acid (syn isomer) (690 mg).

reactant | 7-[2-carboxymethoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthio-3-cephem-4-carboxylic acid | 1 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H14F3N5O7S3
reactant | sodium acetate | 1.41 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 21 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinylthio-3-cephem-4-carboxylic acid | 690 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=S)O)C1=O)=NOCC(=O)O | C16H15N5O6S3
